US04277621
The procedure described in Example 1(b) is repeated, except that 23.3 g (0.1 mol) of 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene, 20 gof 37% hydrochloric acid, 20 ml of water and 10.8 g (0.1 mol) of phenylhydrazine are used. Working up as described in Example 1(b) yields 34.1 g (0.1 mol) of 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal phenylhydrazone; yield 100% of theory.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene | 0.1 mol, 23.3 g | CC1(C=NC(CC=CCCC=CC1)C(C)C)C | C16H27N
reactant | hydrochloric acid | Cl | ClH
reactant | phenylhydrazine | 0.1 mol, 10.8 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | water | 20 ml | O | H2O
product | 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal phenylhydrazone | 0.1 mol, 34.1 g, yield 100% | C1(=CC=CC=C1)NN=CC(CC=CCCC=CCC(N)C(C)C)(C)C | C22H35N3
